US09062013B2
trans-N-(3,4-Difluoro-phenyl)-2,2-dimethyl-3-m-tolyl-cyclopropanecarboxamide
trans-2,2-Dimethyl-3-m-tolyl-cyclopropanecarboxylic acid (2.04 g, 10 mmol) and 3,4-difluoroaniline (1.29 g, 10 mmol) were reacted as described under General Procedure D to furnish the title compound (2.9 g, 92%) as a brown solid. 1H NMR (300 MHz, CDCl3) δ 7.70-7.64 (m, 1H), 7.47 (s, 1H), 7.20-6.96 (m, 6H), 2.79 (d, J=5.6 Hz, 1H), 2.33 (s, 3H), 1.80 (d, J=5.6 Hz, 1H), 1.40 (s, 3H), 0.97 (s, 3H). mp 110-113° C. ESIMS m/z [M+H]+ 316.2.

reactant | trans-2,2-Dimethyl-3-m-tolyl-cyclopropanecarboxylic acid | 10 mmol, 2.04 g | CC1([C@H]([C@@H]1C=1C=C(C=CC1)C)C(=O)O)C | C13H16O2
reactant | 3,4-difluoroaniline | 10 mmol, 1.29 g | FC=1C=C(N)C=CC1F | C6H5F2N
product | trans-N-(3,4-Difluoro-phenyl)-2,2-dimethyl-3-m-tolyl-cyclopropanecarboxamide | 2.9 g, 92% | FC=1C=C(C=CC1F)NC(=O)[C@@H]1C([C@H]1C=1C=C(C=CC1)C)(C)C | C19H19F2NO
